US08071584B2
5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide
A 20 mL microwave reaction vessel was charged with 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid (0.50 g, 1.40 mmol) EDC (0.81 g, 4.22 mmol), HOBT (0.22 g, 1.40 mmol), and dissolved in DMF (4.65 mL). A 0.5 M solution of ammonia in 1,4 dioxane (5.6 mL, 2.81 mmol) was then added and the reaction was heated in a microwave for 20 minutes, at 100° C. The solution was then dissolved in ethyl acetate and washed with water (3×'s). The aqueous layers were backwashed with ethyl acetate. The organic layers were combined and washed with 6 M sodium hydroxide, brine, dried with magnesium sulfate, and concentrated to give 0.484 g (96%) of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid | 1.40 mmol, 0.50 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CS(CC1)(=O)=O | C13H12BrNO4S
reactant | HOBT | 1.40 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
reactant | 1,4 dioxane | 2.81 mmol, 5.6 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 4.65 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.484 g, 96% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C13H13BrN2O3S
